US04219510
A mixture of 2-bromomethylphenyl-phenylphosphonic acid (3.95 g, 0.0127 mole) and 10 ml. of 10% perchloric acid was heated at 100° C. for 4.5 hours with constant stirring. The reaction mixture was cooled to 26° C. and then extracted with methylene chloride. The methylene chloride layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to yield a yellow oil. This oil was distilled in a Kugelrohr at 180° C. and 0.6 torr to yield a colorless oil. The colorless oil was slurried in anhydrous diethyl ether, cooled during which period crystallization occured and then filtered to yield 1-phenyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide (2.2 g, 76% yield) as white crystals having a melting point of 99°-101° C. and the following analysis:

reactant | 2-bromomethylphenyl-phenylphosphonic acid | 0.0127 mole, 3.95 g | BrCC1=C(C=CC=C1)OP(O)(=O)C1=CC=CC=C1 | C13H12BrO3P
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-phenyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | 2.2 g, 76% yield | C1(=CC=CC=C1)P1(OCC2=C1C=CC=C2)=O | C13H11O2P
